US04141899
To a solution of 20 g of histamine dihydrochloride in 54 ml of water and 440 ml of methanol, 19.6 g of sodium hydroxide dissolved in 54 ml of water and 25 ml of isobutyraldehyde are added and the solution refluxed for 24 h. The solution is then acidified with 200 ml of conc. hydrochloric acid and evaporated in vacuo. The residue is taken up in methanol. The methanolic extract is evaporated in vacuo to give 23 g of 4-isopropyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine dihydrochloride, m.p. 238°, from which the free base, m.p. 112°, is obtained by ion-exchange on Amberlite (Trade Mark) IRA 410. A solution of 1.3 g of the base in 10 ml of dioxane is treated with 1.3 g of methyl isothiocyanate and refluxed for 4 h. The solution is cooled and filtered; 1.4 g of 4-isopropyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine, m.p. 240°, are collected.

reactant | histamine dihydrochloride | 20 g | Cl.Cl.NCCC1=CNC=N1
reactant | sodium hydroxide | 19.6 g | [OH-].[Na+]
reactant | isobutyraldehyde | 25 ml | C(C(C)C)=O | C4H8O
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | water | 54 ml | O | H2O
solvent | methanol | 440 ml | CO | CH4O
solvent | water | 54 ml | O | H2O
product | 4-isopropyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine dihydrochloride | 23 g | Cl.Cl.C(C)(C)C1NCCC2=C1N=CN2 | InChI=1S/C9H15N3.2ClH/c1-6(2)8-9-7(3-4-10-8)11-5-12-9;;/h5-6,8,10H,3-4H2,1-2H3,(H,11,12);2*1H
